US05559169
This example illustrates the preparation of a carbon black product useful in the rubber compositions of the present invention. A carbon black with an iodine number of 120 mg/g and a DBPA of 125 ml/100 g was used. A cold solution of 2.65 g concentrated HCl and 30 g water was added to a mixture of 2.85 g 4-aminophenyl phenyl disulfide in 50 g water that was stirring in an ice bath. A cold solution of 1.04 g NaNO2 in 30 g of water was added over a period of 10 minutes. 4-Diazophenyl phenyl disulfide chloride was formed. The diazonium suspension was added to a suspension of 122 g carbon black in about 800 g water that was stirring at 15° C. Bubbles were released. After stirring for about two hours, the carbon black product was filtered off, washed with isopropanol, washed with water, and dried in an oven at about 125° C. A sample of the carbon black product that had been subjected to Soxhlet extraction overnight with THF and dried had a sulfur content of 1.32%, compared to 1.08% for the untreated carbon black. Therefore, the carbon black product had 0.038 mmol/g of attached phenyldithiophenylene groups. This carbon black product may be incorporated into a rubber composition of the invention in accordance the examples above.

reactant | carbon black | C | CH4
reactant | iodine | II | I2
reactant | DBPA | C1=C(NC(=C1Br)Br)C(=O)O | C5H3Br2NO2
reactant | HCl | 2.65 g | Cl | ClH
reactant | 4-aminophenyl phenyl disulfide | 2.85 g | C1(=CC=CC=C1)SSC1=CC=C(C=C1)N | C12H11NS2
reactant | NaNO2 | 1.04 g | N(=O)[O-].[Na+]
solvent | water | 50 g | O | H2O
solvent | water | 30 g | O | H2O
solvent | water | 30 g | O | H2O
product | 4-Diazophenyl phenyl disulfide chloride | [Cl-].C1(=CC=CC=C1)SSC1=CCC(C=C1)=[N+]=[N-] | InChI=1S/C12H10N2S2.ClH/c13-14-10-6-8-12(9-7-10)16-15-11-4-2-1-3-5-11;/h1-6,8-9H,7H2;1H/p-1
